US09029395B2
A suspension of aluminium chloride (41.2 g, 309 mmol) in DCM (480 mL) at 0° C. under nitrogen was treated with a solution of isopropyl ((2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)carbamate (30 g, 81 mmol) in DCM (80 ml) via cannula and the resulting mixture was stirred at this temperature for 30 minutes. The reaction mixture was then slowly treated with a mixture of triethylamine (136 mL, 975 mmol) and methanol (48 mL) via cannula. The resulting cake formed was stirred in ethyl acetate (800 mL), isolated by filtration and subsequently partitioned between DCM (800 mL) and saturated aqueous NaHCO3 solution (800 mL). Sodium potassium tartrate (300 g) was added and the resulting mixture was stirred vigorously for 2 h. The layers were separated and the DCM layer was filtered through a sinter funnel. The filtrate was dried (MgSO4) and concentrated in vacuo to give a first crop of 1-((2S,4R)-4-amino-6-bromo-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (19.6 g, 69.2 mmol, 85% yield) as a yellow foam. The aqueous phase was treated further with DCM (800 mL) and the biphasic mixture stirred overnight. The layers were then separated and the organic layer was dried over (MgSO4) and concentrated in vacuo to give a second crop of 1-((2S,4R)-4-amino-6-bromo-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (3.4 g, 12.01 mmol, 14.78% yield). LCMS (HpH, 2 min), Rt=0.77 min, MH+=283 (1 Br).

reactant | aluminium chloride | 309 mmol, 41.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | isopropyl ((2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)carbamate | 81 mmol, 30 g | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)NC(OC(C)C)=O)C | C16H21BrN2O3
reactant | triethylamine | 975 mmol, 136 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 48 mL | CO | CH4O
solvent | DCM | 480 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 80 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
product | 1-((2S,4R)-4-amino-6-bromo-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 69.2 mmol, 19.6 g, 85% yield | N[C@@H]1C[C@@H](N(C2=CC=C(C=C12)Br)C(C)=O)C | C12H15BrN2O
